US08247421B2
Step 2: 3-bromo-5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine
5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine (1.9 g, 6.62 mmol) in dichloromethane (40 mL) was treated dropwise with a solution of bromine (0.678 mL, 13.24 mmol) in dichloromethane (3 mL). The resulting solution was stirred at room temperature for 3 hours. The reaction mixture was partitioned between dichloromethane (150 mL) and a 1:1 mixture of a saturated aqueous solution of NaHCO3 and a saturated aqueous solution of Na2S2O3 (250 mL). The organic phase was separated and the aqueous phase was re-extracted twice with DCM (50 mL). The combined organic phases were dried over magnesium sulfate and concentrated in vacuo to give the desired compound as an off-white solid (2.381 g, 99% yield).

reactant | 5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 6.62 mmol, 1.9 g | CC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C15H14N2O2S
reactant | bromine | 13.24 mmol, 0.678 mL | BrBr | Br2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-bromo-5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 2.381 g, 99% yield | BrC1=CN(C2=NC=C(C=C21)C)S(=O)(=O)C2=CC=C(C)C=C2 | C15H13BrN2O2S
